US04282365
6,11-Dihydro-11-aminodibenz[b,e]oxepin-2-carboxylic Acid Hydrochloride
Heat together 340 mg. of methyl 6,11-dihydro-11-formamidodibenz[b,e]oxepin-2-carboxylate, 10 ml. of dioxane and 10 ml. of concentrated hydrochloric acid at 100° C. for 5 hours. Strip to dryness and dissolve the residue in water and pass through a Bio-Red AG-50W-X8 resin (sulfonic acid type). Collect the acid by elution with 10% ammonium hydroxide solution. Evaporate to dryness, dissolve the residue in tetrahydrofuran and acidify with aqueous hydrochloric acid. Strip to dryness and recrystallize from methanol/ether to obtain the title product (m.p. 245° dec.).

reactant | methyl 6,11-dihydro-11-formamidodibenz[b,e]oxepin-2-carboxylate | C(=O)NC1C2=C(OCC3=C1C=CC=C3)C=CC(=C2)C(=O)OC | C17H15NO4
reactant | dioxane | O1CCOCC1 | C4H8O2
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
product | 6,11-Dihydro-11-aminodibenz[b,e]oxepin-2-carboxylic Acid Hydrochloride | Cl.NC1C2=C(OCC3=C1C=CC=C3)C=CC(=C2)C(=O)O | InChI=1S/C15H13NO3.ClH/c16-14-11-4-2-1-3-10(11)8-19-13-6-5-9(15(17)18)7-12(13)14;/h1-7,14H,8,16H2,(H,17,18);1H
